US04232039
(d) 1-Bromo-2-(5-chloro-4-cyclohexyl-2-hydroxyphenyl)-ethane
20 ml of boron tribromide are added slowly at 0° with stirring to 11 g of 2-(5-chloro-4-cyclohexyl-2- methoxyphenyl)-ethanol in 300 ml of dry methylene chloride. The mixture is then stirred for 5 hours at 22°.

reactant | boron tribromide | 20 ml | B(Br)(Br)Br | BBr3
reactant | 2-(5-chloro-4-cyclohexyl-2- methoxyphenyl)-ethanol | 11 g | ClC=1C(=CC(=C(C1)CCO)OC)C1CCCCC1 | C15H21ClO2
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | 1-Bromo-2-(5-chloro-4-cyclohexyl-2-hydroxyphenyl)-ethane | BrCCC1=C(C=C(C(=C1)Cl)C1CCCCC1)O | C14H18BrClO
